US04755598
1-(2,4-Dimethyl-3-pentyloxycarbonyloxy)ethyl 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate
A mixture of 1.78 g of 1-chloroethyl 2,4-dimethyl-3-pentyl carbonate and 5 g of sodium iodide is stirred in 30 ml of acetonitrile at 70° C. for 4 hours and concentrated. The residue is extracted with ether and concentrated to give crude 1-iodoethyl 2,4-dimethyl-3-pentyl carbonate. In 30 ml of dimethylformamide is dissolved 3.6 g of potassium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate, and with ice-cooling and stirring, the above 1-iodoethyl 2,4-dimethyl-3-pentyl carbonate is added thereto at one stroke, followed by stirring for 5 minutes. The reaction mixture is poured into a mixture of 150 ml of ethyl acetate and 150 ml of ice-cooled 20% aqueous sodium chloride. The organic layer is separated, washed with two 150-ml portions of saturated aqueous sodium chloride and extracted with 40 ml of 1N hydrochloric acid. The extract is subjected to column chromatography using Diaion MCI® GEL CHP-20P (Mitsubishi Chemical Industries Limited, Japan), elution being carried out with acetonitrile-0.01N hydrochloric acid. The fractions containing the desired product are combined and lyophilized to give 940 mg of the title compound as a white powder.

reactant | potassium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate | 3.6 g | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)[O-])C1=O.[K+]
reactant | 1-iodoethyl 2,4-dimethyl-3-pentyl carbonate | C(OC(C)I)(OC(C(C)C)C(C)C)=O | C10H19IO3
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-Dimethyl-3-pentyloxycarbonyloxy)ethyl 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate | 940 mg | NC=1SC=C(N1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCN(C)C)C(=O)OC(C)OC(=O)OC(C(C)C)C(C)C)C1=O | C28H41N9O7S3
